US04440779
A solution of ethyl 1-methyl-2-(t-butoxymethyl)-4-(3-methylphenoxymethyl)pyrrole-5-carboxylate (3.82 g, 0.01 mol) is allowed to stand in trifluoroacetic acid (50 ml) at room temperature until all starting material is gone by TLC. The TFA is then removed in vacuo and the residue is stirred for 30 minutes with a saturated solution of sodium carbonate in 50% aqueous ethanol (200 ml). Saturated brine (250 ml) is then added, along with ethyl acetate (250 ml) and the layers are separated. The organic layer is washed twice with H2O (100 ml) then brine (50 ml) and dried over anhydrous sodium sulfate. The solvent is then removed and the residue subjected to preparative HPLC to obtain pure ethyl 1-methyl-2-hydroxymethyl-4-(3-methylphenoxymethyl)pyrrole-5-carboxylate.

reactant | ethyl 1-methyl-2-(t-butoxymethyl)-4-(3-methylphenoxymethyl)pyrrole-5-carboxylate | 0.01 mol, 3.82 g | CN1C(=CC(=C1C(=O)OCC)COC1=CC(=CC=C1)C)COC(C)(C)C | C21H29NO4
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | ethyl 1-methyl-2-hydroxymethyl-4-(3-methylphenoxymethyl)pyrrole-5-carboxylate | CN1C(=CC(=C1C(=O)OCC)COC1=CC(=CC=C1)C)CO | C17H21NO4
